US07446199B2
Step E: 2-(2,3-Difluoro-phenyl)-1-(6-pyrrolidin-1-yl-1H-pyrrolo [2,3-b]pyridin-3-yl)-ethanone
A solution of 1-(6-chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-(2,3-difluoro-phenyl)-ethanone (100 mg, 0.29 mmol) and pyrrolidine (1 mL) in NMP (2 mL) was heated in a sealed tube with microwave at 220° C. for 15 min. The solution was poured into water and 0.5N HCl was added to precipitate the product. The crude product was collected by filtration, washed with water, and dried on the pump for direct use (80 mg, 0.23 mmol, 79%). MS (ES+): m/e=342.2 (M+H); LC: 2.92 min.

reactant | 1-(6-chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)-2-(2,3-difluoro-phenyl)-ethanone | 0.29 mmol, 100 mg | ClC1=CC=C2C(=N1)NC=C2C(CC2=C(C(=CC=C2)F)F)=O | C15H9ClF2N2O
reactant | pyrrolidine | 1 mL | N1CCCC1 | C4H9N
reactant | water | O | H2O
reactant | HCl | 0.5N | Cl | ClH
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 2-(2,3-Difluoro-phenyl)-1-(6-pyrrolidin-1-yl-1H-pyrrolo [2,3-b]pyridin-3-yl)-ethanone | FC1=C(C=CC=C1F)CC(=O)C1=CNC2=NC(=CC=C21)N2CCCC2 | C19H17F2N3O
